US07250410B2
3-(1,1′-biphenyl-4-ylmethyl)-1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIck.
By replacing 5-(4-bromophenyl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIbl) in example IIbp by 3-(4-bromobenzyl)-1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIcd) and proceeding in the same manner, the abovenamed product is obtained. Yield: 48%. 1H-NMR (CDCl3, 300 MHz): d 1.08 (s, 3H, CH3), 3.61–3.87 (m, 7H, OCH3+CH+1H NCH2+—CH2Ph), 4.01 (s, 3H, OCH3), 4.38–4.45 (m, 1H NCH2), 6.66 (s, 1H Ar), 6.83 (s, 1H Ar), 7.33–7.63 (m, 14H Ar).

reactant | 5-(4-bromophenyl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | BrC1=CC=C(C=C1)C1=NCC(N(C2=C1C=C(C(=C2)OC)OC)CC)=O | C19H19BrN2O3
reactant | 3-(4-bromobenzyl)-1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | BrC1=CC=C(CC2C(N(C3=C(C(=N2)C2=CC=CC=C2)C=C(C(=C3)OC)OC)CC)=O)C=C1 | C26H25BrN2O3
product | 3-(1,1′-biphenyl-4-ylmethyl)-1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 48% | C1(=CC=C(C=C1)CC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C(=C2)OC)OC)CC)=O)C2=CC=CC=C2 | C32H30N2O3
